US09340547B2
a) (S)-tert-Butyl 1-(3-bromo-2-(3,5-difluorophenylcarbamoyl)-1H-pyrrol-1-ylamino)-3-tert-butoxy-1-oxopropan-2-ylcarbamate
Prepared according to the experimental procedure described in Preparation 61a from 1.07 g (3.39 mmol) of 1-amino-3-bromo-N-(3,5-difluorophenyl)-1H-pyrrole-2-carboxamide and 1.65 g (3.73 mmol) of (S)-3-tert-butoxy-2-(tert-butoxycarbonylamino)propanoic acid. After stirring the reaction mixture overnight, an excess of an additional 1.65 g (3.73 mmol) of the acid was added and the reaction stirred for yet 24 hours more. After precipitation and filtration of the product, two purification steps were needed. First by flash chromatography (70% to 100% DCM/hexanes) and a second purification by reverse phase chromatography (C-18 silica from Waters®, water/1:1 acetonitrile-methanol as eluents [0.1% v/v formic acid buffered] 0% to 100%). 494 mg (26% yield) of the title compound were isolated as a white solid.

reactant | 1-amino-3-bromo-N-(3,5-difluorophenyl)-1H-pyrrole-2-carboxamide | 3.39 mmol, 1.07 g | NN1C(=C(C=C1)Br)C(=O)NC1=CC(=CC(=C1)F)F | C11H8BrF2N3O
reactant | (S)-3-tert-butoxy-2-(tert-butoxycarbonylamino)propanoic acid | 3.73 mmol, 1.65 g | C(C)(C)(C)OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C12H23NO5
product | (S)-tert-Butyl 1-(3-bromo-2-(3,5-difluorophenylcarbamoyl)-1H-pyrrol-1-ylamino)-3-tert-butoxy-1-oxopropan-2-ylcarbamate | 494 mg, 26% yield | BrC1=C(N(C=C1)NC([C@H](COC(C)(C)C)NC(OC(C)(C)C)=O)=O)C(NC1=CC(=CC(=C1)F)F)=O | C23H29BrF2N4O5
